US04261855
A. 2-(p-Formyl-phenyl)-4-cyano-2H-1,2,3-triazole
4.6 g of sodium are dissolved in 300 ml of absolute ethanol, with stirring and whilst passing a vigorous stream of nitrogen over the mixture. 23.2 g of 2-nitropropane (purity: about 95%) are then added dropwise at 21° C. in the course of 5 minutes and the reaction mixture is stirred at 20° to 25° C. for a further 2 hours. 52.6 g of 2-(p-bromomethyl-phenyl)-4-cyano-2H-1,2,3-triazole are then introduced and the reaction mixture is slowly heated up to the reflux temperature and refluxed for 2 hours. After cooling, the product which has crystallised out is filtered off with suction, stirred with 500 ml of water, again filtered off with suction and washed well with about 2 liters of water. This gives 21.8 g of 2-(p-formyl-phenyl)-4-cyano-2H-1,2,3-triazole with a melting point of 148° to 150° C.

reactant | sodium | 4.6 g | [Na] | Na
reactant | 2-nitropropane | 23.2 g | [N+](=O)([O-])C(C)C | C3H7NO2
reactant | 2-(p-bromomethyl-phenyl)-4-cyano-2H-1,2,3-triazole | 52.6 g | BrCC1=CC=C(C=C1)N1N=CC(=N1)C#N | C10H7BrN4
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 2-(p-Formyl-phenyl)-4-cyano-2H-1,2,3-triazole | C(=O)C1=CC=C(C=C1)N1N=CC(=N1)C#N | C10H6N4O
